US05239080
To a mixture of 4-(4-chlorophenyl)-2-oxazolepropionic acid (0.5 g) and isopropanol (30 ml) was added conc. sulfuric acid (0.3 ml), and the resultant was refluxed for 5 hours. The reaction mixture was poured into water and extracted with ether. The ether layer was washed succesively with a saturated sodium hydrogen carbonate aqueous solution and water, and dried over MgSO4. The ether was distilled off to give crystals of isopropyl 4-(4-chlorophenyl)-2-oxazolepropionate (530 mg, 91%). Recrystallization from hexane gave colorless prism crystals of mp 30°-31° C.

reactant | 4-(4-chlorophenyl)-2-oxazolepropionic acid | 0.5 g | ClC1=CC=C(C=C1)C=1N=C(OC1)CCC(=O)O | C12H10ClNO3
reactant | isopropanol | 30 ml | C(C)(C)O | C3H8O
reactant | sulfuric acid | 0.3 ml | S(O)(O)(=O)=O | H2O4S
solvent | water | O | H2O
product | isopropyl 4-(4-chlorophenyl)-2-oxazolepropionate | 530 mg, 91% | ClC1=CC=C(C=C1)C=1N=C(OC1)CCC(=O)OC(C)C | C15H16ClNO3
